US04083948
6-Chloro-2-chloromethyl-4-(4-hydroxyphenyl)quinazoline 3-oxide
A solution of 40.5 g (0.12 mole) 2,4'-dichloro-2'-(4-hydroxybenzoyl)-acetanilide oxime and 40.5 mg (0.329 mole) of boron trifluoride etherate was heated to reflux. After 5 hr, it was cooled and 200 ml of water was added. The dioxane was removed by distillation and the reaction mixture was made basic with a 5% sodium bicarbonate solution. The solid was collected, heated in methanol at reflux for a few minutes, cooled and collected to give, in two crops, 21.3 g (56%) of product. An analytical sample which was recrystallized from methanol melted at 226°-227° dec.

reactant | 2,4'-dichloro-2'-(4-hydroxybenzoyl)-acetanilide oxime | 0.12 mole, 40.5 g | ClCC(NC1=C(C=C(C=C1)Cl)C(C1=CC=C(C=C1)O)=O)=NO | C15H12Cl2N2O3
reactant | boron trifluoride etherate | 0.329 mole, 40.5 mg | B(F)(F)F.CCOCC
solvent | water | 200 ml | O | H2O
product | 6-Chloro-2-chloromethyl-4-(4-hydroxyphenyl)quinazoline 3-oxide | 21.3 g, 56% | ClC=1C=C2C(=[N+](C(=NC2=CC1)CCl)[O-])C1=CC=C(C=C1)O | C15H10Cl2N2O2
